US09056112B2
1-[(4-Methyl-quinazolin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-bromoxanthine (5 gm) and N,N-dimethylformamide (DMF, 50 mL) were charged into a 500 mL round bottomed flask equipped with a mechanical stirrer. Potassium carbonate (4.57 gm) and (R)-piperidine-3-amine dihydrochloride (2.86 gm) were added to the reaction mixture at room temperature. The reaction mixture was heated to 80° C. and maintained at that temperature for 8 hours. The reaction mixture was cooled to room temperature and DMF was evaporated under vacuum, then dichloromethane (DCM, 50 mL) was added, and stirred for 15 minutes. The reaction mixture was filtered to separate out the non-dissolved material and the non-dissolved material was washed with 15 mL of dichloromethane. The dichloromethane was evaporated under vacuum to give 4 gm of crude Linagliptin.

reactant | 1-[(4-Methyl-quinazolin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-bromoxanthine | 5 gm | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C20H17BrN6O2
reactant | Potassium carbonate | 4.57 gm | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-piperidine-3-amine dihydrochloride | 2.86 gm | Cl.Cl.N1C[C@@H](CCC1)N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Linagliptin | 4 gm | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
